.subckt MIC4416 4  3   9   2 
*               In Out Vcc Gnd
Rin 4 Vind 2k
C1 4 2 6P
D2 2 Vind DN 
D3 4 9 DN 
RT 4 2 10MEG

Vsctl 13 0   5
XSctl 13 VindH Vind 2 SWhyste PARAMS: VT=2.175 VH=.225 RON=1 ROFF=1G
Rsctl VindH 2 1MEG

I2 9 2   42u Load
R2 9 2 600k
I1 9 8   280U
R4 9 8 150k
D4 8 9 DN 
cpara 8 2 100f
.MODEL DN D Vfwd=0.6 Ron=10m epsilon=100m Roff=1g

BLin 12 2 V= IF ( V(VindH) > 2 , 5 , 0 ) 
Rind 12 10 100  
Cind 10 11 160p 
Vinput 11 2
Bind 10 2 i= IF ( 7.5-V(9) > 0 , 0.33*I(Vinput)*(7.5-V(9)) , 0 ) 
XSinput 8 6 10 2 SWhyste PARAMS: VT=2.8 VH=.65 RON=1 ROFF=1G
Rinput 6 2 6k

B3 7 3 V= IF ( V(8,2) < 0.5*V(9,2) , V(9,2) , -V(9,2) ) 
Rout 1 7 800 
bVS 99 0 V=IF ( V(9)/1.7 < 1 , 1 , V(9)/1.7 ) 
XCout 99 0 98     1 2 yx
*     Ctl  Ref Cap+ -
Cref  98 0 1p  
C2 3 2 50p
M4 9 1 3 3 _M4_mod L=1U W=1.65U 
M5 2 1 3 3 _M5_mod L=1U W=1.65U 
.MODEL _M5_mod PMOS KP=47m RD=2.7 VTO=-2.4
.MODEL _M4_mod NMOS KP=47m RD=2.7 VTO=2.4
.ENDS
*$
.subckt MIC4417 4  3   9   2 
*               In Out Vcc Gnd
Rin 4 Vind 2k
C1 4 2 6P
D2 2 Vind DN 
D3 4 9 DN 
RT 4 2 10MEG

Vsctl 13 0   5
XSctl 13 VindH Vind 2 SWhyste PARAMS: VT=2.175 VH=.225 RON=1 ROFF=1G
Rsctl VindH 2 1MEG

I2 9 2   42u Load
R2 9 2 600k
I1 9 8   280U
R4 9 8 150k
D4 8 9 DN 
cpara 8 2 100f
.MODEL DN D Vfwd=0.6 Ron=10m epsilon=100m Roff=1g
BLin 12 2 V= IF ( V(VindH) > 2 , 5 , 0 ) 
Rind 12 10 100  
Cind 10 11 160p 
Vinput 11 2
Bind 10 2 i=IF ( 7.5-V(9) > 0 , 0.33*I(Vinput)*(7.5-V(9)) , 0 )
XSinput 8 6 10 2 SWhyste PARAMS: VT=2.8 VH=.65 RON=1 ROFF=1G
Rinput 6 2 6k

B3 7 3 V= IF ( V(8,2) < 0.5*V(9,2) , -V(9,2) , V(9,2) ) 
Rout 1 7 800 
bVS 99 0 V=IF ( V(9)/1.7 < 1 , 1 , V(9)/1.7 )
XCout 99 0 98     1 2 yx
*     Ctl  Ref Cap+ -
Cref 98 0 1p  
C2 3 2 50p
M4 9 1 3 3 _M4_mod L=1U W=1.65U 
M5 2 1 3 3 _M5_mod L=1U W=1.65U 
.MODEL _M5_mod PMOS KP=47m RD=2.7 VTO=-2.4
.MODEL _M4_mod NMOS KP=47m RD=2.7 VTO=2.4
.ENDS
*$


* Variable admittance: Yout = Yref * V
*           control input: voltage
*           |  reference capacitor/conductance (connect other lead to ground)
*          / \ |  output: floating admittance
*          + - | / \
.subckt yx 1 2 3 4 5
  ecopy  3 6 poly(2) (1,2) (4,5) 0 0 0 0 1
  fout   4 5 vsense 1
  rin    1 2 1G
  vsense 0 6 0
.ends
*$
.subckt SWhyste NodeMinus NodePlus Plus Minus PARAMS: RON=1 ROFF=100MEG VT=1.5 VH=.5
S5 NodePlus NodeMinus plus  minus  SW
.model SW sw (RON={RON} ROFF={ROFF} Vt={vt} Vt={vt})
.ends SWhyste
*$
.SUBCKT ONESHOTA1 In Out PARAMS: DELAY=473n
R3 1 0 10k
C3 1 2 10pF
X2 Out 4 DLOS PARAMS: TD={DELAY}
X9 4 5 INVOS
X10 1 6 Out Qbb LATCHOS
R4 0 6 10k
C4 7 6 10pF
X11 5 Out 7 NAND2OS
X12 In 8 2 AND2OS
R5 8 Qbb 100
C5 8 0 100p
.ENDS
.SUBCKT DLOS 1 2 PARAMS: TD=473n
*
RIN 1 0 1E15
B 0 2 i=delay(v(1),td) Rpar=1 Cpar=100p
.ENDS
.SUBCKT INVOS 1 2
A1 1 0 0 0 0 2 0 0 BUF Rout=100 Cout=10p REF=0.35 Vhigh=5 td=1n
.ENDS
.SUBCKT LATCHOS 6 8 2 1
*             S R Q Q\
A1 8 2 0 0 0 1 0 0 AND Rout=100 Cout=10p REF=0.35 Vhigh=5 ic=5 td=1n
A2 6 1 0 0 0  2 0 0 AND Rout=100 Cout=10p REF=0.35 Vhigh=5 ic=0 td=1n
.ENDS
.SUBCKT NAND2OS 1 2 3
A1 1 2 0 0 0 3 0 0 AND Rout=100 Cout=10p REF=0.35 Vhigh=5 td=1n
.ENDS
.SUBCKT AND2OS 1 2 3
A1 1 2 0 0 0 0 3 0 AND Rout=100 Cout=10p REF=0.35 Vhigh=5 td=1n
.ENDS
*$
